US04452807
2.40 g of (S)-1-(3-benzyloxy-4-methoxybenzoyl)-3-hydroxy-2-pyrrolidinone are hydrogenated in 100 ml of tetrahydrofuran over 2.00 g of 5% palladium/carbon with hydrogen at atmospheric pressure. After removal of the catalyst by filtration, concentration of the filtrate and crystallization from ethyl acetate/diethyl ether, there is obtained (S)-1-(3-hydroxy-4-methoxybenzoyl)-3-hydroxy-2-pyrrolidinone of melting point 131°-132°; [α]D20 =-180°; [α]54620 =-223°; [α]43620 =-464° (chloroform, c=1.0).

reactant | (S)-1-(3-benzyloxy-4-methoxybenzoyl)-3-hydroxy-2-pyrrolidinone | 2.40 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)N2C([C@H](CC2)O)=O)C=CC1OC | C19H19NO5
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | palladium/carbon | 2.00 g | [Pd] | Pd
product | (S)-1-(3-hydroxy-4-methoxybenzoyl)-3-hydroxy-2-pyrrolidinone | OC=1C=C(C(=O)N2C([C@H](CC2)O)=O)C=CC1OC | C12H13NO5
